US07781436B2
[1-(2-Amino-ethyl)-6-chloro-1H-indol-3-yl]-[4-(2,3-dihydro-benzofuran-7-yl)-piperidin-1-yl]-methanone
Following general procedure II, the alkylation of (6-chloro-1H-indol-3-yl)-[4-(2,3-dihydro-benzofuran-7-yl)-piperidin-1-yl]-methanone (preparation described herein), with (commercially available) 2-chloro-ethylamine gave the title compound.

reactant | (6-chloro-1H-indol-3-yl)-[4-(2,3-dihydro-benzofuran-7-yl)-piperidin-1-yl]-methanone | ClC1=CC=C2C(=CNC2=C1)C(=O)N1CCC(CC1)C1=CC=CC=2CCOC21 | C22H21ClN2O2
reactant | 2-chloro-ethylamine | ClCCN | C2H6ClN
product | [1-(2-Amino-ethyl)-6-chloro-1H-indol-3-yl]-[4-(2,3-dihydro-benzofuran-7-yl)-piperidin-1-yl]-methanone | NCCN1C=C(C2=CC=C(C=C12)Cl)C(=O)N1CCC(CC1)C1=CC=CC=2CCOC21 | C24H26ClN3O2
